US06858751B1
Preparation of Benzyl Fluoroformate
The process is performed as in Example 1 with, in the first reactor, 168 g (4 mol) of sodium fluoride powder having the same characteristics as described in Example 1 and 320 ml of acetonitrile and, in the second reactor, 108 g (1 mol) of benzyl alcohol, 50.5 g (1.2 mol) of sodium fluoride of the same characteristics as above and 150 g of dimethoxyethane.

reactant | sodium fluoride | 4 mol, 168 g | [F-].[Na+]
reactant | acetonitrile | 320 ml | C(C)#N | C2H3N
reactant | benzyl alcohol | 1 mol, 108 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium fluoride | 1.2 mol, 50.5 g | [F-].[Na+]
reactant | dimethoxyethane | 150 g | C(OC)COC | C4H10O2
product | Benzyl Fluoroformate | FC(=O)OCC1=CC=CC=C1 | C8H7FO2
